US06162819
1-Benzyl-3-(5-formyl-2-furyl)indazole:
7.7 g (25.3 mmol) of 1-benzyl-3-(5-hydroxymethyl-2-furyl)indazole and 11 g (126.5 mmol) of activated manganese(IV) oxide in 200 ml of dry carbon tetrachloride were stirred under reflux for 4.5 h. For work-up, the mixture was filtered off with suction and the filtrate was washed with water, dried and concentrated using a rotary evaporator. The crude product was recrystallized from isopropanol. This gave 4.8 g (63%) of the title compound. m.p.: 108° C.

reactant | 1-benzyl-3-(5-hydroxymethyl-2-furyl)indazole | 25.3 mmol, 7.7 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)CO | C19H16N2O2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | manganese(IV) oxide | 126.5 mmol, 11 g | [O-2].[Mn+4].[O-2]
product | 1-Benzyl-3-(5-formyl-2-furyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C=O | C19H14N2O2
